US07151098B2
The 3-(3-cyano-thiophen-2-yl)-3-oxo-propionic acid was prepared from 3-cyano-thiophene-2-carbonyl chloride (24.33 g, 140.6 mmol) and bis(trimethylsilyl)malonate (38.0 mL, 147.7 mmol) with Et3N (41 mL, 295.4 mmol) and LiBr (13.5 g, 154.7 mmol) in CH3CN at 0° C. according to general procedure H (method c1). The crude material (24.8 g) was transformed into the tide compound by stirring in isopropenyl acetate and conc. H2SO4 according to general procedure J (method a). Obtained as an orange solid (5.6 g).

reactant | 3-cyano-thiophene-2-carbonyl chloride | 140.6 mmol, 24.33 g | C(#N)C1=C(SC=C1)C(=O)Cl | C6H2ClNOS
reactant | bis(trimethylsilyl)malonate | 147.7 mmol, 38.0 mL | C[Si](C)(C)C(C(=O)[O-])(C(=O)[O-])[Si](C)(C)C
reactant | Et3N | 295.4 mmol, 41 mL | CCN(CC)CC | C6H15N
reactant | LiBr | 154.7 mmol, 13.5 g | [Li+].[Br-]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | CH3CN | CC#N | C2H3N
solvent | isopropenyl acetate | C(C)(=O)OC(=C)C | C5H8O2
product | 3-(3-cyano-thiophen-2-yl)-3-oxo-propionic acid | C(#N)C1=C(SC=C1)C(CC(=O)O)=O | C8H5NO3S
